US08383639B2
tert-Butyl 2-(4-fluorobenzyl)-2-formylhydrazinecarboxylate.
To a solution of tert-butyl 2-(4-fluorobenzyl)hydrazinecarboxylate (0.6 g, 2.50 mmol, 1.0 equiv) in EtOH (2.5 mL) was added ethyl formate (0.81 mL, 9.99 mmol, 4.0 equiv) and the reaction mixture heated to 50° C. (oil bath). After stirring 4 h, the reaction was cooled to ambient temperature and stirred 3 d. The reaction was then heated to 50° C. (oil bath) for 3 h at which time more ethyl formate (1.0 mL, 12.28 mmol, 4.9 equiv) was added. After stirring a further 4 h, the reaction was concentrated in vacuo. The crude product was purified by silica gel chromatography (elute with 10-70% ethyl acetate/hexane) to provide the title compound (0.11 g, 16% yield) as a colorless oil which slowly crystallized. Unreacted tert-butyl 2-(4-fluorobenzyl)hydrazinecarboxylate was recovered from the mother liquor. 1H NMR (400 MHz, CDCl3) δ ppm 8.20 (s, 1H), 7.20-7.25 (m, 2H), 7.00-7.08 (m, 2H), 6.27 (s, 1H), 4.58 (s, 2H), 1.43 (s, 9H); LCMS (ES+, (M+H)+) m/z 269.22.

reactant | tert-butyl 2-(4-fluorobenzyl)hydrazinecarboxylate | 2.50 mmol, 0.6 g, 1.0 equiv | FC1=CC=C(CNNC(=O)OC(C)(C)C)C=C1 | C12H17FN2O2
reactant | ethyl formate | 9.99 mmol, 0.81 mL, 4.0 equiv | C(=O)OCC | C3H6O2
reactant | ethyl formate | 12.28 mmol, 1.0 mL, 4.9 equiv | C(=O)OCC | C3H6O2
solvent | EtOH | 2.5 mL | CCO | C2H6O
product | tert-Butyl 2-(4-fluorobenzyl)-2-formylhydrazinecarboxylate | 0.11 g, 16% yield | FC1=CC=C(CN(NC(=O)OC(C)(C)C)C=O)C=C1 | C13H17FN2O3
